US08431575B2
To a stirred solution of (±)-trans-3-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxymethyl]-piperidin-4-ol (0.117 mmol, 0.06 g) in DCM (1 mL) was added formaldehyde solution (1 mL) followed by sodium triacetoxyborohydride (0.3 g) and continued stirring the reaction mixture for 3 h at room temperature. The reaction mixture was diluted with DCM (10 mL), washed the organic layer with water, dried the organic layer, filtered and concentrated under reduced pressure. The residue was purified by flash silica gel column chromatography by eluting with DCM (200 mL) followed 10% methanolic solution of ammonia (2 M solution of NH3 in methanol) in DCM to provide (±)-trans-3-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxymethyl]-1-methyl-piperidin-4-ol which was treated with 4 N HCl in dioxane. The volatiles were removed under reduced pressure, and the salt was washed with anhydrous ether and dried under high vacuum to provide the title compound (0.058 g). LCMS: m/z 455 [M+1]. 1H NMR (400 MHz, CD3OD) δ 7.81 (1H, s), 7.47 (2H, d), 7.13 (2H, d), 4.6-4.76 (2H, m), 4.42-4.48 (1H, m), 3.52-3.85 (3H, m), 3.12-3.22 (4H, m), 2.92 (3H, s), 2.21-2.36 (2H, m), 1.84-2.04 (4H, m), 1.23-1.64 (11H, m), 0.82 (3H, t).

reactant | (±)-trans-3-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxymethyl]-piperidin-4-ol | 0.117 mmol, 0.06 g | C(CCC)C1=C(C=C(N=N1)OC[C@@H]1CNCC[C@H]1O)C1=CC=C(C=C1)OC1CCCCC1 | C26H37N3O3
reactant | formaldehyde | 1 mL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 0.3 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (±)-trans-3-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxymethyl]-1-methyl-piperidin-4-ol | C(CCC)C1=C(C=C(N=N1)OC[C@@H]1CN(CC[C@H]1O)C)C1=CC=C(C=C1)OC1CCCCC1 | C27H39N3O3
